US03975445
1-Carboxy-3-oxo-2,5,5-trimethyl-cyclopentane is first dehydrogenated and halogenated and subsequently esterified by treatment with thionyl chloride/sulphuryl chloride followed by the addition of methanol. The 1-methoxycarbonyl-3-oxo-2,5,5-trimethyl-cyclopent-1-ene obtained is then reduced with the aid of a reducing agent (e.g. sodium borohydride) firstly to 1-methoxycarbonyl-3-hydroxy-2,5,5-trimethyl-cyclopent-1-ene and subsequently with the aid of diisobutyl aluminum hydride to 1-hydroxymethyl-3-hydroxy-2,5,5-trimethyl-cyclopent-1-ene.

reactant | 1-Carboxy-3-oxo-2,5,5-trimethyl-cyclopentane | C(=O)(O)C1C(C(CC1(C)C)=O)C | C9H14O3
reactant | thionyl chloride sulphuryl chloride | S(=O)(Cl)Cl.S(=O)(=O)(Cl)Cl
reactant | methanol | CO | CH4O
product | 1-methoxycarbonyl-3-oxo-2,5,5-trimethyl-cyclopent-1-ene | COC(=O)C1=C(C(CC1(C)C)=O)C | C10H14O3
